US06350749B1
In benzene (10 ml) was dissolved 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin-5-one (1.54 g), and to the solution was added m-chloroperbenzoic acid (1.72 g). The mixture was stirred at room temperature for 1 hour, and to the mixture were added ethyl acetate (300 ml), saturated sodium hydrogen carbonate solution (300 ml) and sodium nitrite (500 mg). The mixture was shaken, and the separated upper layer was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography to give 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin-5-one-1-oxide (478 mg) as pale yellow crystals.

reactant | 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin-5-one | 1.54 g | ClC1=C(C=CC=C1)C1CC(C=2C(=CN=NC2C1)C)=O | C15H13ClN2O
reactant | m-chloroperbenzoic acid | 1.72 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | 300 ml | C(O)([O-])=O.[Na+]
reactant | sodium nitrite | 500 mg | N(=O)[O-].[Na+]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin-5-one-1-oxide | 478 mg | ClC1=C(C=CC=C1)C1CC(C=2C(=CN=[N+](C2C1)[O-])C)=O | C15H13ClN2O2
